US06177408B1
The Intermediate ethyl N-ethyl-4-aminocinnamate
To a solution of 5 g of ethyl 4-aminocinnamate in 100 ml of methanol, 0.1 ml of acetaldehyde, 1.256 g of sodium cyanoborohydride and 2.15 ml of hydrochloric acid 23% were added. The solution was stirred at room temperature for one day, then the solvent evaporated in vacuum and the crude residue purified by flash chromatography (n-exane/ethyl acetate 9/1) to yield 2.1 g of intermediate as a yellow solid.

reactant | ethyl 4-aminocinnamate | 5 g | NC1=CC=C(C=CC(=O)OCC)C=C1 | C11H13NO2
reactant | sodium cyanoborohydride | 1.256 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 2.15 ml | Cl | ClH
reactant | acetaldehyde | 0.1 ml | C(C)=O | C2H4O
solvent | methanol | 100 ml | CO | CH4O
product | ethyl N-ethyl-4-aminocinnamate | 2.1 g | C(C)NC1=CC=C(C=CC(=O)OCC)C=C1 | C13H17NO2
